US04490364
Acetylsulfuric acid pyridinium salt
A mixture of 30 ml of acetic anhydride and 8.05 ml (0.1 mole) of pyridine is cooled to 0° C., and 5.4 ml of conc. H2SO4 is added dropwise at 0° C. under stirring. After 10 minutes, the crystals are filtered, washed with diethyl ether and dried under vacuum over P2O5 and KOH. Yield: 18.4 g (84%). IR: 1050 cm-1 sharp band, characteristic for sulfates and sulfate esters. Decomposes above 75° C., very hygroscopic. MW: 219.2 (C7H9O5NS).

reactant | pyridine | 0.1 mole, 8.05 ml | N1=CC=CC=C1 | C5H5N
reactant | H2SO4 | 5.4 ml | OS(=O)(=O)O | H2O4S
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Acetylsulfuric acid pyridinium salt | [NH+]1=CC=CC=C1.C(C)(=O)OS([O-])(=O)=O | InChI=1S/C5H5N.C2H4O5S/c1-2-4-6-5-3-1;1-2(3)7-8(4,5)6/h1-5H;1H3,(H,4,5,6)
